US04888048
A solution of 160 g (0.75 mol) of 2-tert.-butyl-2-(tetrahydro-2H-pyran-2-yloxymethyl)-oxirane in 180 ml of absolute dimethylformamide is added dropwise to a mixture of 168 g (2.45 mols) of 1,2,4-triazole, 18.2 g (0.16 mol) of potassium tert.-butylate and 350 ml of absolute dimethylformamide at 80° C. under a nitrogen atmosphere. The reaction mixture is stirred at 80° C. for 6 hours and is then concentrated by stripping off the diluent under reduced pressure. The residue which remains is taken up in ethyl acetate and the organic solution formed is washed with water and then dried over sodium sulphate, and concentrated by stripping off the solvent under reduced pressure. The product thus obtained is purified chromatographically over silica gel with chloroform as the mobile phase. 107.3 g (51% of theory) of 2-tert.-butyl-1-(tetrahydro-2H-pyran-2-yl-oxy)-3-(1,2,4-triazol-1-yl)-propan-2-ol (mixture of diastereomers) are obtained in this manner.

reactant | 2-tert.-butyl-2-(tetrahydro-2H-pyran-2-yloxymethyl)-oxirane | 0.75 mol, 160 g | C(C)(C)(C)C1(OC1)COC1OCCCC1 | C12H22O3
reactant | 1,2,4-triazole | 2.45 mols, 168 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2-tert.-butyl-1-(tetrahydro-2H-pyran-2-yl-oxy)-3-(1,2,4-triazol-1-yl)-propan-2-ol | 107.3 g, 51% | C(C)(C)(C)C(COC1OCCCC1)(CN1N=CN=C1)O | C14H25N3O3
